US04973599
2-[(2-Nitrophenyl)thio]-1H-imidazole
A mixture of 5.0 g (0.05 mole) of 2-mercaptoimidazole. 7.9 g (0.05 mole) of 2-chloronitrobenzene, 6.5 g (0.12 mole) of sodium methoxide and 150 ml of ethanol was stirred and refluxed for 5 hours. An additional 0.8 g of 2-chloronitrobenzene, was added and refluxing continued for 5 more hours. The mixture was filtered hot and the filtrates concentrated. The residue was partitioned with water and dichloromethane. The undissolved solid was collected by filtration to give 8.3 g of product. The dichloromethane was dried and concentrated. The residue was recrystallized from dichloromethane to give an additional 1.2 g of product. The total yield was 87% and the product was obtained as yellow rods, mp 178°-181° C.

reactant | 2-mercaptoimidazole | 0.05 mole, 5.0 g | SC=1NC=CN1 | C3H4N2S
reactant | 2-chloronitrobenzene | 0.05 mole, 7.9 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium methoxide | 0.12 mole, 6.5 g | C[O-].[Na+]
reactant | 2-chloronitrobenzene | 0.8 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[(2-Nitrophenyl)thio]-1H-imidazole | 8.3 g | [N+](=O)([O-])C1=C(C=CC=C1)SC=1NC=CN1 | C9H7N3O2S
